US07491713B2
N-[(3R,6S)-1-(Cyclopropylmethyl)-2-oxo-6-phenylazepan-3-yl]-4-(5-oxo-3-phenyl-4,5-dihydro-1H-1,2,4-triazol-1-yl)piperidine-1-carboxamide
Triethylamine (0.006 mL, 0.035 mmol) was added to a solution of (3R,6S)-3-amino-1-(cyclopropylmethyl)-6-phenylazepan-2-one (9 mg, 0.035 mmol) and p-nitrophenyl chloroformate (7 mg, 0.035 mmol) in tetrahydrofuran (0.500 mL) at 0° C. After 0.5 h, diisopropylethylamine (0.027 mL, 0.14 mmol), 5-phenyl-1-piperidin-4-yl-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride (9 mg, 0.035 mmol), and dichloromethane (0.500 mL) were added and the mixture was heated to reflux. After 2 h, the mixture was concentrated. Purification by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound. MS 529.3 (M+1).

reactant | Triethylamine | 0.035 mmol, 0.006 mL | C(C)N(CC)CC | C6H15N
reactant | (3R,6S)-3-amino-1-(cyclopropylmethyl)-6-phenylazepan-2-one | 0.035 mmol, 9 mg | N[C@H]1C(N(C[C@@H](CC1)C1=CC=CC=C1)CC1CC1)=O | C16H22N2O
reactant | p-nitrophenyl chloroformate | 0.035 mmol, 7 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 0.14 mmol, 0.027 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-phenyl-1-piperidin-4-yl-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride | 0.035 mmol, 9 mg | Cl.C1(=CC=CC=C1)C1NC(NN1C1CCNCC1)=O
reactant | tetrahydrofuran | 0.500 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 0.500 mL | ClCCl | CH2Cl2
product | N-[(3R,6S)-1-(Cyclopropylmethyl)-2-oxo-6-phenylazepan-3-yl]-4-(5-oxo-3-phenyl-4,5-dihydro-1H-1,2,4-triazol-1-yl)piperidine-1-carboxamide | C1(CC1)CN1C([C@@H](CC[C@H](C1)C1=CC=CC=C1)NC(=O)N1CCC(CC1)N1N=C(NC1=O)C1=CC=CC=C1)=O | C30H36N6O3
